US05047171
This 2-(4-heptylphenyl)-5-(4-methyloxyphenyl)pyridine (15 g, 0.042 mol) was dissolved in acetic acid (120 ml), followed by adding a 48% solution of hydrobromic acid (50 ml), refluxing the mixture for 30 hours, cooling the resulting material, pouring it in water, dissolving deposited crystals in 2N-NaOH aqueous solution on heating, adding acetic acid to obtain an acidic solution, filtering off the residue and recrystallizing from EtOH to obtain 2-(4-heptylphenyl)-5-(4-hydroxyphenyl)pyridine (10 g).

reactant | 2-(4-heptylphenyl)-5-(4-methyloxyphenyl)pyridine | 0.042 mol, 15 g | C(CCCCCC)C1=CC=C(C=C1)C1=NC=C(C=C1)C1=CC=C(C=C1)OC | C25H29NO
reactant | hydrobromic acid | 50 ml | Br | BrH
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(4-heptylphenyl)-5-(4-hydroxyphenyl)pyridine | 10 g | C(CCCCCC)C1=CC=C(C=C1)C1=NC=C(C=C1)C1=CC=C(C=C1)O | C24H27NO
